US08937078B2
Step D: Preparation of 1-(4-oxo-3,4,6,7,8,9-hexahydro-benzo[g]quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid.
Lithium hydroxide monohydrate (25.5 mg, 0.608 mmol) and water (0.45 mL) were added to 1-(4-oxo-3,4,6,7,8,9-hexahydro-benzo[g]quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (87.5 mg, 0.259 mmol) in THF (0.55 mL). The reaction mixture was stirred at room temperature for 18 h and was then concentrated. The residue was redissolved in water (5 mL) and this solution was brought to pH 1 with 1M aqueous HCl. The resulting precipitate was collected and dried to yield the titled compound (76.6 mg, 95% yield). MS (ESI/Cl): mass calcd. for C16H14N4O3, 310.1; m/z found, 311.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 13.00 (s, 1H), 12.61 (s, 1H), 8.91 (s, 1H), 8.24 (s, 1H), 7.83 (s, 1H), 7.40 (s, 1H), 2.89 (br d, J=4.7 Hz, 4H), 1.84-1.72 (m, 4H).

reactant | Lithium hydroxide monohydrate | 0.608 mmol, 25.5 mg | O.[OH-].[Li+]
reactant | water | 0.45 mL | O | H2O
reactant | 1-(4-oxo-3,4,6,7,8,9-hexahydro-benzo[g]quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.259 mmol, 87.5 mg | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC3=C(C=C2C(N1)=O)CCCC3 | C18H18N4O3
solvent | THF | 0.55 mL | C1CCOC1 | C4H8O
product | 1-(4-oxo-3,4,6,7,8,9-hexahydro-benzo[g]quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid | 76.6 mg, 95% yield | O=C1NC(=NC2=CC3=C(C=C12)CCCC3)N3N=CC(=C3)C(=O)O | C16H14N4O3
